US08957080B2
Synthesis of (R)-2-(3-(4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile
To a mixture of (R)-5-(4-phenoxyphenyl)-7-(piperidin-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (100 mg, 0.26 mmol, 1.0 eq), 2-cyano-3-cyclopropylacrylic acid (45 mg, 0.32 mmol, 1.2 eq) and DIPEA (102 mg, 0.78 mmol, 3 eq) in 10 mL DCM was added HATU (150 mg, 0.40 mmol, 1.5 eq) and the reaction mixture was stirred for 4 h at RT under N2. The reaction mixture was purified by Pre-TLC to give the title compound (60 mg, 54% in yield). LCMS: m/z (505.0) (M+H)+ 1HNMR (400 MHz, CDCl3): δ 0.826˜0.837 (m, 2H), 1.147˜1.183 (m, 6H), 1.744˜2.210 (m, 5H), 4.661˜4.699 (m, 1H), 5.212˜5.226 (m, 2H), 6.499˜6.524 (m, 1H), 6.921˜7.367 (m, 10H) and 8.223 (S, 1H).

reactant | (R)-5-(4-phenoxyphenyl)-7-(piperidin-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.26 mmol, 100 mg, 1.0 eq | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@H]2CNCCC2 | C23H23N5O
reactant | 2-cyano-3-cyclopropylacrylic acid | 0.32 mmol, 45 mg, 1.2 eq | C(#N)C(C(=O)O)=CC1CC1 | C7H7NO2
reactant | DIPEA | 0.78 mmol, 102 mg, 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.40 mmol, 150 mg, 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(3-(4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile | 60 mg, 54% | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)[C@H]2CN(CCC2)C(=O)C(C#N)=CC2CC2 | C30H28N6O2
